US08685986B2
7-(a) N-(4-Cyanobenzyl)-4-fluorobenzenesulfonamide
Reaction was carried out in the same manner as in a Reference Example 2-(d) except for using 4-fluorobenzenesulfonyl chloride (1.18 g, 6.06 mmol) in place of 3-pyridylsulfonyl chloride, and using 4-cyanobenzylamine hydrochloride (1.00 g, 5.93 mmol) in place of (6-phenylpyridazin-3-ylmethyl)amine hydrochloride. After completion of the reaction, a saturated aqueous sodium chloride solution was added to the reaction solution, followed by extraction with ethyl acetate. The separated organic layer was dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. To the resulting residue dissolved in a small amount of methylene chloride was added hexane, and a precipitated solid was collected by filtration. The resulting solid was dried under reduced pressure at 60° C. to afford the title compound (1.54 g) as a slightly brown solid. (Yield: 89%)

reactant | 4-fluorobenzenesulfonyl chloride | 6.06 mmol, 1.18 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | 4-cyanobenzylamine hydrochloride | 5.93 mmol, 1.00 g | Cl.C(#N)C1=CC=C(CN)C=C1
reactant | sodium chloride | [Cl-].[Na+]
product | N-(4-Cyanobenzyl)-4-fluorobenzenesulfonamide | 1.54 g, Yield: 89% | C(#N)C1=CC=C(CNS(=O)(=O)C2=CC=C(C=C2)F)C=C1 | C14H11FN2O2S
